US09034866B2
9-Bromo-10-fluoro-3-N-methyl-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene-3,4-dicarboxamide (125 mg) was reacted with (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol similar to as described in Procedure E to afford 19.5 mg of 10-fluoro-9-[(3R)-3-hydroxy-3-(5-methyl-1,2-oxazol-3-yl)but-1-yn-1-yl]-3-N-methyl-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene-3,4-dicarboxamide following reverse phase hplc purification. MS (Q1) 464 (M)+. 1H NMR (400 MHz, DMSO) δ 10.59 (q, J=4.6 Hz, 1H), 8.85 (d, J=7.5 Hz, 1H), 8.28 (s, 1H), 7.74 (s, 1H), 7.32 (d, J=10.1 Hz, 1H), 6.58 (s, 1H), 6.36 (s, 1H), 6.19-6.03 (m, 1H), 3.73-3.61 (m, 1H), 3.18-3.05 (m, 2H), 2.78 (d, J=4.5 Hz, 3H), 2.41 (s, 4H), 1.68 (d, J=12.0 Hz, 3H).

reactant | 9-Bromo-10-fluoro-3-N-methyl-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene-3,4-dicarboxamide | 125 mg | BrC=1C=C2C3=NC(=C(N3C3CC(C2=CC1F)C3)C(=O)NC)C(=O)N | C16H14BrFN4O2
reactant | (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol | CC1=CC(=NO1)[C@@](C)(C#C)O | C8H9NO2
product | 10-fluoro-9-[(3R)-3-hydroxy-3-(5-methyl-1,2-oxazol-3-yl)but-1-yn-1-yl]-3-N-methyl-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene-3,4-dicarboxamide | 19.5 mg | FC1=C(C=C2C3=NC(=C(N3C3CC(C2=C1)C3)C(=O)NC)C(=O)N)C#C[C@](C)(C3=NOC(=C3)C)O | C24H22FN5O4
